US04598077
To 1 g of methyl 4-[2-(4-phthalimidomethylphenyl)ethenyl]benzimidate hydrochloride, were added 60 ml of chloroform and 0.2 ml of a methanol solution containing 40% of methylamine. The mixture was stirred at room temperature for 15 hours and stripped of the solvent under reduced pressure. Ether was added to the residue and the precipitated crystals were collected by filtration to yield 0.33 g of N-methyl-4-[2-(4-phthalimidomethylphenyl)ethenyl]benzamidine hydrochloride; m.p. ≥280° C.

reactant | methyl 4-[2-(4-phthalimidomethylphenyl)ethenyl]benzimidate hydrochloride | 1 g | Cl.C1(C=2C(C(N1CC1=CC=C(C=C1)C=CC1=CC=C(C(OC)=N)C=C1)=O)=CC=CC2)=O
reactant | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
reactant | methanol | 0.2 ml | CO | CH4O
reactant | methylamine | CN | CH5N
solvent | Ether | CCOCC | C4H10O
product | N-methyl-4-[2-(4-phthalimidomethylphenyl)ethenyl]benzamidine hydrochloride | 0.33 g | Cl.CNC(C1=CC=C(C=C1)C=CC1=CC=C(C=C1)CN1C(C=2C(C1=O)=CC=CC2)=O)=N | InChI=1S/C25H21N3O2.ClH/c1-27-23(26)20-14-12-18(13-15-20)7-6-17-8-10-19(11-9-17)16-28-24(29)21-4-2-3-5-22(21)25(28)30;/h2-15H,16H2,1H3,(H2,26,27);1H
